US06140100
2-Iodo-4-nitro-L-phenylalanine
A 250 mL round bottomed flask equipped with a magnetic stirrer was charged with 60 mL of fuming sulfuric acid (Aldrich) and 12.1 g of iodine (Aldrich). To the resulting dark red solution was added 10.0 g of 4-nitro-L-phenylalanine by slow addition. The flask was fitted with a CaCl2 drying tube and the reaction mixture was stirred at RT for 18 h. The mixture was then poured onto 300 g of crushed ice. A yellow-brown emulsion resulted which was treated with 7.4 g of sodium thiosulfate and stirred. The resulting light brown suspension was basified to pH=9 by addition of solid NaCO3. This was followed by acidification to pH=5.5 by addition of conc. H3SO4. A brown solid precipitated which was collected by filtration and dried in vacuo. This afforded 6.54 g (41%) of 2-iodo-4-nitro-L-phenylalanine as a brown powder, m.p.>200° C.

reactant | iodine | 12.1 g | II | I2
reactant | 4-nitro-L-phenylalanine | 10.0 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | sodium thiosulfate | 7.4 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | sulfuric acid | 60 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Iodo-4-nitro-L-phenylalanine | IC1=C(C[C@H](N)C(=O)O)C=CC(=C1)[N+](=O)[O-] | C9H9IN2O4
